US04377589
2-(tert.-Butylimino)-4-diphenylmethyl-3-methyl-4-thiazolidinol hydrobromide
A 1.48 g. portion of 1-tert.-butyl-3-methyl-2-thiourea in 75 ml. of acetone is treated with a clarified solution of 2.89 g. of 3-bromo-1,1-diphenyl-2-propanone in 75 ml. of acetone. The mixture is stirred at room temperature for 17 hours. The solid is collected by filtration, washed with acetone and dried at 60° C. in vacuo, giving 2.8 g. of the desired product, m.p. 170°-172° C. (dec.).

reactant | 1-tert.-butyl-3-methyl-2-thiourea | C(C)(C)(C)NC(=S)NC | C6H14N2S
reactant | 3-bromo-1,1-diphenyl-2-propanone | BrCC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C15H13BrO
solvent | acetone | CC(=O)C | C3H6O
product | 2-(tert.-Butylimino)-4-diphenylmethyl-3-methyl-4-thiazolidinol hydrobromide | Br.C(C)(C)(C)N=C1SCC(N1C)(O)C(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C21H26N2OS.BrH/c1-20(2,3)22-19-23(4)21(24,15-25-19)18(16-11-7-5-8-12-16)17-13-9-6-10-14-17;/h5-14,18,24H,15H2,1-4H3;1H
